Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Cecal polyp unable to remove with endoscopic resection.

 
Major Surgical or Invasive Procedure:
Laparoscopic right colectomy and extensive lysis of adhesions.

 
History of Present Illness:
___ male who a year ago had am large flat polyp at the 
ileocecal valve.  He did not want surgery.  Attempt was made to 
remove it.  However, polyp
recurred and the patient was referred for colorectal surgery 
consulation.
 
Past Medical History:
HLD
Diverticulosis
Colonic Adenoma
OSA
Migraine
Glaucoma 
 
Physical Exam:
Physical Assessment From Surgical Note on Day of Discharge:
General: NAD
VS:99.8, 98.4, 65, 135/86, 20, 97%RA
Cardiac: RRR NL S1S2
Lungs: No respiratory distress
Abd: Soft, no rebound/gaurding, appropriately tender, mild 
distension
Wound: CDI
Extremities: No CCE
 
Pertinent Results:
___ 04:45AM BLOOD WBC-6.7 RBC-5.42 Hgb-12.9* Hct-41.4 
MCV-76* MCH-23.8* MCHC-31.1 RDW-15.4 Plt ___
___ 03:15PM BLOOD Hct-45.3
___ 02:55PM BLOOD Hct-ERROR
___ 04:45AM BLOOD Glucose-107* UreaN-10 Creat-0.9 Na-136 
K-3.9 Cl-102 HCO3-28 AnGap-10
___ 03:15PM BLOOD Na-138 K-4.3 Cl-102
___ 04:45AM BLOOD Calcium-7.9* Phos-3.0 Mg-2.2
___ 03:15PM BLOOD Mg-1.6
 
Brief Hospital Course:
The patient was admitted post-operatively to the inpatient 
colorectal surgery unit after a laparoscopic right colectomy on 
___. NPO/IVF/PCA and on CPAP. All laboratory values were 
stable post-operatively. Also on ___ the patient tolerated 
clear liquids, was given Toradol and intermittent morphine for 
sleepiness on PCA and the patient's pain controlled was 
controlled. ___ the Foley catheter was removed and the 
patient voided without issue. The patient was advanced to 
regular diet on ___ and was discharged home in stable 
condition and tolerating pain medications by mouth. 
  

 
Medications on Admission:
Citalopram 40mg qd
Simvastatin 20mg qd
ISOPTO HOMATROPINE 5 % 1 gtt OS bid 
(NEVANAC) 0.1 % Ophthalmic Drops 1 gtt OS tid
meclizine 25mg up to qid
XIBROM 0.09 % EYE DROPS 1 gtt as directed
ASA 81mg qd
DORZOLAMIDE-TIMOLOL 2 %-0.5 % EYE DROPS 1 gtt OS bid 
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain for 5 days: hold for increased sedation or 
RR<12.
Disp:*30 Tablet(s)* Refills:*0*
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) for 7 days: do not take more than 4000mg od tylenol in 
24 hours. do not drink alcohol while taking tylenol.  .  
3. citalopram 40 mg Tablet Sig: One (1) Tablet PO once a day.  
4. meclizine 25 mg Tablet Sig: One (1) Tablet PO four times a 
day as needed for dizziness: home medication.  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
6. Isopto Homatropine 5 % Drops Sig: One (1) drop Ophthalmic 
twice a day: in left eye.  
7. Nevanac 0.1 % Drops, Suspension Sig: One (1) drop Ophthalmic 
three times a day: in left eye.  
8. home eye drop
XIBROM 0.09 % EYE DROPS 1 drop in left eye as directed
9. dorzolamide-timolol ___ % Drops Sig: One (1) drop 
Ophthalmic twice a day: in left eye.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cecal polyp unable to remove with endoscopic resection.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a laparoscopic right 
colectomy for surgical management of your cecal polyp. You have 
recovered from this procedure well and you are now ready to 
return home. Samples from your colon were taken and this tissue 
has been sent to the pathology department for analysis. You will 
receive these pathology results at your follow-up appointment. 
If there is an urgent need for the surgeon to contact you 
regaurding these results they will contact you before this time. 
You have tolerated a regular diet, passing gas and your pain is 
controlled with pain medications by mouth. You may return home 
to finish your recovery.

Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have  a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but your should not have prolonged constipation. Some loose 
stool and passing of small amounts of dark, old appearing blood 
are expected however, if you notice that you are passing bright 
red blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms does not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation. 

You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures and the skin glue 
dermabond. These are healing well however it is important that 
you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. Please call the office if you develop any 
of these symptoms or a fever. You may go to the emergency room 
if your symptoms are severe. You may shower, pat the incisions 
dry with a towel do not rub. The small incisions may be left 
open to the air. Please no baths or swimming for 6 weeks after 
surgery unless told otherwise by Dr. ___ Dr. ___.

You will be prescribed the pain medication oxycodone which you 
may take as presribed. Do not drink alcohol or drive a car while 
taking this medication. You may also take tylenol for pain. 
Please do not take more than 4000mg of tylenol in 24 hours. Do 
not drink alcohol while taking Tylenol. 

No heavy lifting greater than 6 lbs for until your first 
post-operative visit after surgery. Please no strenuous activity 
until this time unless instructed otherwise by Dr. ___ Dr. 
___.

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___